US07855194B2
Piperidin-4-yl-(5,5,7,7-tetramethyl-5,7-dihydro-furo[3,4-d]pyrimidin-2-yl)-amine dihydrochloride
A solution of 4-(5,5,7,7-tetramethyl-5,7-dihydro-furo[3,4-d]pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.23 g, 3.27 mmol) in 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 277.3 [M+H]+.

reactant | 4-(5,5,7,7-tetramethyl-5,7-dihydro-furo[3,4-d]pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.27 mmol, 1.23 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1N=CC2=C(N1)C(OC2(C)C)(C)C | C20H32N4O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-(5,5,7,7-tetramethyl-5,7-dihydro-furo[3,4-d]pyrimidin-2-yl)-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC=1N=CC2=C(N1)C(OC2(C)C)(C)C | InChI=1S/C15H24N4O.2ClH/c1-14(2)11-9-17-13(18-10-5-7-16-8-6-10)19-12(11)15(3,4)20-14;;/h9-10,16H,5-8H2,1-4H3,(H,17,18,19);2*1H
